US07704996B2
Step 1.1: (2-Morpholin-4-yl-2-oxo-1-phenylethyl)carbamic acid tert-butyl ester
To a solution of tert-butoxycarbonylaminophenylacetic acid (4.0 mmol) in CH2Cl2 (8.0 mL) is added morpholine (4.0 mmol), EDCl—H2O (4.8 mmol) and DMAP (0.40 mmol) at room temperature. After stirring at room temperature for 24 h, the reaction is quenched by the addition of water. The mixture is extracted with AcOEt. The combined organic extracts are washed with brine, dried over Na2SO4 and concentrated in vacuo. The resulting solid is triturated with ether-n-hexane to give the title compound; 1H NMR (CDCl3) δ 1.41 (s, 9H), 3.08-3.12 (m, 1H), 3.20-3.28 (m, 1H), 3.39-3.45 (m, 1H), 3.49-3.60 (m, 3H), 3.66-3.76 (m, 2H), 5.54 (d, 1H), 6.01 (d, 1H), 7.29-7.36 (m, 5H).

reactant | tert-butoxycarbonylaminophenylacetic acid | 4.0 mmol | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | morpholine | 4.0 mmol | N1CCOCC1 | C4H9NO
reactant | EDCl H2O | 4.8 mmol | CCN=C=NCCCN(C)C.Cl.O
solvent | CH2Cl2 | 8.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.40 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2-Morpholin-4-yl-2-oxo-1-phenylethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1CCOCC1)C1=CC=CC=C1)=O | C17H24N2O4
